US04156016
A mixture of 10.4 g. (0.04 mol) of 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]benzenamine and 36 ml. of 4 N hydrochloric acid was maintained at 2° or below while a solution of 2.76 g. (0.04 mol) of sodium nitrite in 10 ml. of water was added. The reaction was stirred for an additional 30 minutes in the ice bath, 12.0 g. of sodium acetate was added, followed by a slurry of 7.65 g. (0.04 mol) of α-acetylbenzenepropanamide in 50 ml. of ethanol. The cooling bath was removed; after 30 minutes, when the temperature was 6°, 50 ml. of methanol was added and the resulting solution was stirred an additional 80 minutes at ambient temperature. The reaction was diluted with water and extracted with dichloromethane. The extracts were dried over sodium sulfate, passed over a small amount of silica gel and concentrated under vacuum to give 19.28 g. of crude α-acetyl-α-[4-[2,2,2 -trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenylazo]benzenepropanamide as an orange oil which gradually crystallized. This material was recrystallized only with difficulty and was generally used as is for subsequent reactions. An analytical sample was prepared by repeated solution in dichloromethane, dilution with tetrachloromethane and slow evaporation of the dichloromethane to give α-acetyl-α-[4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenylazo]benzenepropanamide as yellow crystals, m.p. 128°-133°.

reactant | 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)-ethyl]benzenamine | 0.04 mol | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N)(F)F | C9H7F6NO
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium nitrite | 0.04 mol | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | α-acetylbenzenepropanamide | 0.04 mol | C(C)(=O)C(C(=O)N)CC1=CC=CC=C1 | C11H13NO2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | α-acetyl-α-[4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenylazo]benzenepropanamide | C(C)(=O)C(C(=O)N)(CC1=CC=CC=C1)N=NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C20H17F6N3O3
